US06362201B1
1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(cyclopropyl)pyrrolidine
To a solution of 0.02 g (0.067 mmol) of 3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(cyclopropyl)pyrrolidine and 0.12 mL of pyridine in 2 mL of CH2Cl2 at rt was added 0.19 g (1 mmol) of 1-naphthoyl chloride and the reaction mixture was stirred for 1 h. The reaction mixture was partitioned between ethyl acetate and sat'd NaHCO3 solution. The organic fraction was dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chomatography (HPLC Waters Nova-Pak 8×10 RCM 25-40% MeOH in H2O 0.5%TFA) to give the title compound.

reactant | 3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(cyclopropyl)pyrrolidine | 0.067 mmol, 0.02 g | FC1=CC=C(C=C1)C1CCN(CC1)CC1CNCC1C1CC1 | C19H27FN2
reactant | pyridine | 0.12 mL | N1=CC=CC=C1 | C5H5N
reactant | 1-naphthoyl chloride | 1 mmol, 0.19 g | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-(cyclopropyl)pyrrolidine | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C1CC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C30H33FN2O
